US05990102
c. 6-(4-Methoxyphenyl)hexylamine
N-(4-methoxybenzyl)-1-hexyl phthalimide (19.9 g, 60 mmol) was dissolved in ethanol (300 ml) and hydrazine monohydrate (8.9 g, 0.11 mol) was added. The mixture was refluxed for 3 hours, filtered, the residue washed with ethanol and the filtrate evaporated. The residue was taken up in diethyl ether, filtered and the residue washed well with ether. Evaporation of the filtrate gave a yellow oil which was purified by distillation to give a clear oil bp 108-110° C., 0.02 mbar.

reactant | N-(4-methoxybenzyl)-1-hexyl phthalimide | 60 mmol, 19.9 g | COC1=CC=C(CN2C(C3(C(C2=O)C=CC=C3)CCCCCC)=O)C=C1 | C22H27NO3
reactant | hydrazine monohydrate | 0.11 mol, 8.9 g | O.NN
reactant | ethanol | 300 ml | C(C)O | C2H6O
product | 6-(4-Methoxyphenyl)hexylamine | COC1=CC=C(C=C1)CCCCCCN | C13H21NO
